* 100 MHz passive band-pass, 50 ohm system.
* Seventh-order Chebyshev LC ladder transformed to a
* 94.31-105.77 MHz band-pass.
.subckt rlc_rf_bandpass IN OUT COM
LP1 IN COM 7.689782n
CP1 IN COM 330.227555p
LS2 IN N1 994.427952n
CS2 N1 N2 2.553607p
LP3 N2 COM 4.332150n
CP3 N2 COM 586.170344p
LS4 N2 N3 1099.679050n
CS4 N3 N4 2.309199p
LP5 N4 COM 4.332150n
CP5 N4 COM 586.170344p
LS6 N4 N5 994.427952n
CS6 N5 OUT 2.553607p
LP7 OUT COM 7.689782n
CP7 OUT COM 330.227555p
.ends rlc_rf_bandpass
