* Two-stage OTA with indirect (Ahuja / current-buffer) compensation.
* Stage 1 is an NMOS pair folded through PMOS current buffers into a
* wide-swing NMOS cascode mirror.  The compensation capacitor returns
* from vout to the source of the output-branch PMOS cascode.
.subckt ahuja_ota vss iref vdd vinp vinn vout

* Bias rails derived from the single 50 uA reference.
XMB1 iref iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=24 nf=4
XMT tail iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=14 nf=2
XMS1 vcp iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=12 nf=2
XMBC vbp vbp vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=32 nf=4
RCP vbp vcp 10k
CBP vcp vdd 5p
CBB vbp vdd 2p
XMS2 vcn vbp vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=32 nf=4
RCN vcn ncn 10k
XMBN ncn ncn vss vss sky130_fd_pr__nfet_01v8 l=0.35 w=5.2 nf=1
CBN vcn vss 2p

* Folded-cascode first stage.
XM1 f1 vinn tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=10 nf=2
XM2 f2 vinp tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=10 nf=2
XM3 f1 vbp vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=128 nf=16
XM4 f2 vbp vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=128 nf=16
XM3C g1 vcp f1 vdd sky130_fd_pr__pfet_01v8 l=0.5 w=110 nf=14
XM4C va vcp f2 vdd sky130_fd_pr__pfet_01v8 l=0.5 w=110 nf=14
XM5 s5 g1 vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=30 nf=5
XM6 s6 g1 vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=30 nf=5
XM5C g1 vcn s5 vss sky130_fd_pr__nfet_01v8 l=0.35 w=18 nf=3
XM6C va vcn s6 vss sky130_fd_pr__nfet_01v8 l=0.35 w=18 nf=3

* Common-source second stage and indirect compensation.
XM8 vout va vss vss sky130_fd_pr__nfet_01v8 l=0.3 w=54 nf=6
XM9 vout vbp vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=384 nf=48
CC vout f2 3.3p
.ends ahuja_ota
