* Mechanically normalized from Ying Haochi's completed Virtuoso hierarchy.
.subckt input_mux_8to1 AVDD AVSS S\<2\> S\<1\> S\<0\> VIN\<7\> VIN\<6\> VIN\<5\> VIN\<4\> VIN\<3\> VIN\<2\> VIN\<1\> VIN\<0\> VO
XI17 AVDD AVSS SB\<2\> S\<2\> net5 VO sw_mux
XI16 AVDD AVSS S\<2\> SB\<2\> net6 VO sw_mux
XI15 AVDD AVSS S\<1\> SB\<1\> net2 net5 sw_mux
XI14 AVDD AVSS SB\<1\> S\<1\> net1 net5 sw_mux
XI13 AVDD AVSS SB\<1\> S\<1\> net3 net6 sw_mux
XI12 AVDD AVSS S\<1\> SB\<1\> net4 net6 sw_mux
XI11 AVDD AVSS SB\<0\> S\<0\> VIN\<0\> net1 sw_mux
XI10 AVDD AVSS S\<0\> SB\<0\> VIN\<1\> net1 sw_mux
XI9 AVDD AVSS SB\<0\> S\<0\> VIN\<2\> net2 sw_mux
XI8 AVDD AVSS S\<0\> SB\<0\> VIN\<3\> net2 sw_mux
XI7 AVDD AVSS SB\<0\> S\<0\> VIN\<4\> net3 sw_mux
XI6 AVDD AVSS S\<0\> SB\<0\> VIN\<5\> net3 sw_mux
XI3 AVDD AVSS SB\<0\> S\<0\> VIN\<6\> net4 sw_mux
XI0 AVDD AVSS S\<0\> SB\<0\> VIN\<7\> net4 sw_mux
XI2\<2\> S\<2\> AVDD AVSS SB\<2\> IVD2A
XI2\<1\> S\<1\> AVDD AVSS SB\<1\> IVD2A
XI2\<0\> S\<0\> AVDD AVSS SB\<0\> IVD2A
.ends input_mux_8to1

.subckt sw_mux AVDD AVSS EN ENB I O
XNM0 I EN O AVSS sky130_fd_pr__nfet_01v8 w=2 l=1 as=0.405 ad=0.28 ps=3.405 pd=2.28 m=20 mult=20
XNM1 O ENB I AVDD sky130_fd_pr__pfet_01v8 w=2 l=1 as=0.3425 ad=0.28 ps=2.8425 pd=2.28 m=40 mult=40
.ends sw_mux

.subckt IVD2A A VDD VSS Y
Xmp0 Y A VDD VDD sky130_fd_pr__pfet_01v8 w=1.13 l=0.15 as=0.29945 ad=0.1582 ps=2.79 pd=1.41 m=2 mult=2
Xmn0 Y A VSS VSS sky130_fd_pr__nfet_01v8 w=0.76 l=0.15 as=0.2014 ad=0.1064 ps=2.05 pd=1.04 m=2 mult=2
.ends IVD2A
